US04505926
2-(2,6-dichloro-4-hydroxymethylphenylimino)imidazolidine
Lithium aluminium hydride (300 mg, 7.9 mM) was added to a stirred suspension of 2-(4-carbomethoxy-2,6-dichlorophenylimino)imidazolidine (750 mg, 2.6 mM) in dry tetrahydrofuran (50 ml) with stirring. The mixture was then stirred at room temperature for several hours after which time ethyl acetate was carefully added. The solvent was then removed under vacuum and water was added to the residue. After basification with dilute sodium hydroxide the aqueous mixture was extracted several times with ethyl acetate. The extract (750 mg) was dried and evaporated to give a solid which was recrystallised from isopropanol to give a white solid (330 mg) mp 208°-210° C.

reactant | Lithium aluminium hydride | 7.9 mM, 300 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(4-carbomethoxy-2,6-dichlorophenylimino)imidazolidine | 2.6 mM, 750 mg | C(=O)(OC)C1=CC(=C(C(=C1)Cl)N=C1NCCN1)Cl | C11H11Cl2N3O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(2,6-dichloro-4-hydroxymethylphenylimino)imidazolidine | 330 mg | ClC1=C(C(=CC(=C1)CO)Cl)N=C1NCCN1 | C10H11Cl2N3O
